Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Nutrasweet Aspartame / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F w/ severe RA w/ leukocytoclastic vasculitis, venous
insufficiency, hypothyroid, DM, presenting with abdominal pain
and AMS.

Per EMS, found seated hunched over on portable commode in 
bedroom
of residence, alert and oriented x4 with warm, dry skin. Pt
complained of constipation x2 days with associated abdominal
pain. Family member reports pt had two bowel movements today but
pt reports still feeling "urgent need to go." Pt reports that 
she
is "very blocked up." 

On our assessment, patient intermittently reports abdominal 
pain.
Also mentions a fall, unsure when. Reports some mid back pain.
Unable to obtain other significant history. 

Recent ___ admission for fall, thought to be due to
deconditioned/meds, also hypothyroid, restarted on 
levothyroxine.
D/c to SAR. Noted to have difficulty with med compliance.

EMS physical: L sided tenderness in LUQ on palpation. No
distention, rigidity or masses felt. Pt had multiple large
bruises all over her body which family member and pt report are
from repeated falls in residence. Pt denied chest pain, 
shortness
of breath, nausea, vomiting, fever or chills. Pt was extricated
via stair chair, secured to stretcher and transported to BID 
with
no further change in condition.

In the ED:

On EMS arrival, the patient endorsed LUQ tenderness.
Notably, the patient recently had a ___ admission for a fall due
to suspected deconditioning. The patient was noted to have
difficulty with med compliance. The patient reports bilateral ___
pain. Denies fever, chills, dyspnea, chest pain, or n/v.

Initial vital signs were notable for:
97.7 83 130/69 18 98% RA 

Exam notable for:
Patient AAOx2, trying to get out of bed. 
PERLA, EOMI, no obvious head trauma
No C spine tenderness, mild T spine tenderness
Flinches with abdominal palpation, especially on the left side.
But is soft and not notably distended
LEs with bilaterally venous stasis changes and multiple open
wounds that do not appear actively infected

Labs were notable for:

141  95  12  
---------------< 147
3.6  28  1.0 

8.3 > 10.7/33.6 < 207 
  
UA: Large leuks, 30 protein, 40 WBCs

Studies performed include:

CT head:
No acute intracranial process.
Diffuse hypodensities in the white matter again seen, similar in
extent to CT head dated ___ and ___ which
could be related to prior therapy or due to extensive small
vessel disease.

CT C-Spine
1. No acute fracture or traumatic malalignment.
2. Multilevel degenerative changes including mild 
anterolisthesis
of C2 on C3,
intervertebral disc space narrowing, and osteophytosis worse at
C4-C5.

CT Abd/Pelvis with contrast:
1. Ground-glass opacification in the posterior segment of the
right upper lobe
that may represent infection.
2. No intrathoracic or intra-abdominal sequela of trauma.
3. Irregularity and lucency at the superior endplate of L5 and
inferior
endplate of L4 are slightly progressed when compared to prior
dated ___ and infection cannot be excluded.
4. Nonspecific, unchanged prominent pelvic lymph nodes.
5. Prominent bilateral external iliac lymph node are again seen
measuring up
to 0.9 cm in short axis, nonspecific.
6. Mild stranding adjacent to the left adrenal may represent
possible adrenal injury.
7. Unchanged, indeterminate renal lesion in the interpolar 
region
of the right kidney seen since ___. Non emergent
follow-up renal ultrasound is recommended if no prior
characterization has been performed.

Pt was given:
Olanzapine for agitation
Tylenol
Cefpodoxime 200mg
Ceftriaxone 1g
Azithro
IVF
sitter for agitation 

Consults: None

Vitals on transfer: T102.7, BP 171/92, HR90, RR20, 94% RA

Upon arrival to the floor, pt was somnolent and stated she had
L-sided pain of her torso. Her attention waxed/waned and she
responded somewhat appropriately when prodded. Vital signs were
significant for hypertension and febrile to 102.7 reduced to 100
with IV Tylenol. Her HCP, her son, was called for assessment of
her baseline which he says is AOx4 and occasionally combative.
She has a history of recurrent UTIs which present with similar
delirium. Has mild baseline dementia with forgetfulness of
certain memories but functional and independent otherwise. 
 
Past Medical History:
Chronic pain 30+ years back, hands
Rheumatic fever
Rheumatoid arthritis
HTN
HLD
Type 2 DM
Asthma
?cervical CA s/p hysterectomy ___
?uterine CA
Hypothyroidism
Venous stasis
Depression
Anxiety            
HTN
Hypothyroidism
Chronic venous stasis ulcers
Recurrent UTIs 
Intermittent urinary retention
Chronic pain
Back injury NOS
Asthma 
COPD
?rheumatoid arthritis
T2DM 
 
Social History:
___
Family History:
Patient previously stated her family had "medical conditions" 
but she cannot describe more specifically. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T102.7, BP171/92, HR90, RR20, 94%RA
GENERAL: Somnolent, responds appropriately intermittently. In
mild distress ___ abd pain.
HEENT: NCAT. Sclera anicteric and without injection.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Unable to evaluate for CVA tenderness ___ pt refusal. 
ABDOMEN: Soft, non distended, tender to palpation in left
quadrants (LUQ worse than LLQ). Healed surgical scar on R.
EXTREMITIES: B/L ___ erythema with multiple bruises and scars in
various stages of healing with overlying blanching
well-demarcated erythema.  Warm to touch. L leg erythema 
outlined
on ___. Pulses DP/Radial 2+ bilaterally.
SKIN: See Ext above. Warm. 
NEUROLOGIC:  Sensation intact in ___.

DISCHARGE PHYSICAL EXAM:
============================
VITALS:  98.5 PO 99 / 58 71 16 95 RA 
GEN: Lying in bed on her left side, eyes closed
CV: Normal rate, regular rhythm, no m/r/g
Pulm: CTAB
Abdomen: Deferred due to abdominal pain
Ext: B/L ___ with erythema with bruising and skin breakdown c/w 
venous stasis changes
Neuro: EOMI, R facial droop, R upper extremity can elevate 
without resistance, can move R toes and ankle, improved from 
prior, grossly normal on the Left side
 
Pertinent Results:
ADMISSION LABS:
=================
___ 03:31AM BLOOD WBC-8.3 RBC-3.80* Hgb-10.7* Hct-33.6* 
MCV-88 MCH-28.2 MCHC-31.8* RDW-15.5 RDWSD-49.9* Plt ___
___ 03:31AM BLOOD Neuts-87.3* Lymphs-6.8* Monos-4.6* 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-7.36* AbsLymp-0.57* 
AbsMono-0.39 AbsEos-0.03* AbsBaso-0.03
___ 03:25AM BLOOD Glucose-147* UreaN-12 Creat-1.0 Na-141 
K-3.6 Cl-95* HCO3-28 AnGap-18
___ 03:25AM BLOOD ALT-9 AST-10 AlkPhos-113* TotBili-0.7
___ 03:25AM BLOOD Lipase-10
___ 10:45AM BLOOD Calcium-8.4 Phos-3.7 Mg-1.4*
___ 03:25AM BLOOD Albumin-4.3
___ 02:29AM BLOOD Glucose-112* Lactate-2.3* Na-139 K-3.4 
Cl-98 calHCO3-26

INTERVAL LABS:
===============
___ 07:25AM BLOOD ___ PTT-28.5 ___
___ 07:25AM BLOOD Ret Aut-2.3* Abs Ret-0.08
___ 03:30AM BLOOD Lipase-79*
___ 03:00PM BLOOD Calcium-9.4 Phos-3.1 Mg-1.7 Cholest-118
___ 07:25AM BLOOD calTIBC-229* VitB12-731 Ferritn-186* 
TRF-176*
___ 03:00PM BLOOD %HbA1c-6.1* eAG-128*
___ 03:00PM BLOOD Triglyc-181* HDL-40* CHOL/HD-3.0 
LDLcalc-42
___ 10:45AM BLOOD TSH-43*
___ 10:45AM BLOOD Free T4-0.7*
___ 10:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS:
=================
___ 06:43AM BLOOD WBC-4.9 RBC-3.51* Hgb-10.1* Hct-30.3* 
MCV-86 MCH-28.8 MCHC-33.3 RDW-15.1 RDWSD-47.8* Plt ___
___ 06:43AM BLOOD Glucose-157* UreaN-19 Creat-0.8 Na-140 
K-3.7 Cl-98 HCO3-26 AnGap-16
___ 06:30AM BLOOD Glucose-137* UreaN-26* Creat-0.9 Na-139 
K-3.8 Cl-98 HCO3-26 AnGap-15
___ 06:43AM BLOOD Calcium-9.1 Phos-3.3 Mg-1.9

MICROBIOLOGY:
===============
___ AND ___ URINE CULTURES:  
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
___ URINE CULTURE:   NO GROWTH. 

___ 4:00 pm BLOOD CULTURE **FINAL REPORT ___  Blood 
Culture, Routine (Final ___: STAPHYLOCOCCUS, COAGULASE 
NEGATIVE. Isolated from only one set in the previous five days.
___ BLOOD CULTURE: NO GROWTH
___ BLOOD CULTURE X2: NGTD
___ BLOOD CULTURE: NGTD

IMAGING:
===========
CT C-SPINE W/O CONTRAST Study Date of ___  
1. No acute fracture or traumatic malalignment. 
2. Multilevel degenerative changes including mild 
anterolisthesis of C2 on C3, intervertebral disc space 
narrowing, and osteophytosis worse at C4-C5. 
3. Multilevel posterior osteophytosis and calcified disc bulge 
result in 
moderate spinal canal narrowing most severe at C3-C4. 
4. Multilevel uncovertebral facet joint hypertrophy resulting 
mild neural 
foraminal stenosis worse than right C3-C4 facet joint. 

CT HEAD W/O CONTRAST Study Date of ___  
No acute intracranial process. 
Diffuse hypodensities in the white matter again seen, similar in 
extent to CT head dated ___ and ___ which 
could be related to prior therapy or due to extensive small 
vessel disease. 

CT CHEST a/p W/CONTRAST Study Date of ___  
1. Nodular, ground-glass opacification in the posterior right 
upper lobe 
concerning for pneumonia.  In the setting of trauma, underlying 
pulmonary 
contusion is not excluded. 
2. Mild stranding between the left adrenal gland and kidney is 
nonspecific, but may relate to acute injury or ascending GU 
infection.  
3. Irregularity and lucency at the superior endplate of L5 and 
inferior 
endplate of L4 are slightly progressed when compared to prior 
dated ___ and infection cannot be excluded. 
4. Nonspecific, unchanged prominent pelvic lymph nodes. 

CT ABD & PELVIS WITH CONTRAST Study Date of ___  
1. No etiology identified for severe abdominal pain.  
Specifically, no 
intra-abdominal abscess or small bowel obstruction. 
2. The bladder wall appears mildly thickened, which may be 
related to 
nondistention, however, cystitis should be considered and 
correlation with 
urinalysis is recommended. 
3. Redemonstration of the irregularity and lucency at the 
superior endplate of L5 in the inferior endplate of L4, which is 
unchanged compared to ___ but slightly progressed 
compared to ___.  Findings may represent progressive 
neuropathic degenerative changes however underlying infection 
cannot be excluded. 
4. Unchanged, nonspecific prominent/enlarged pelvic/inguinal 
lymph nodes. 

MR HEAD W/O CONTRAST Study Date of ___  
1. Late acute to subacute in the left corona radiata.  No 
intracranial 
hemorrhage. 
2. Atrophy and stable extensive white matter signal abnormality, 
possibly 
related to prior therapy or chronic small vessel ischemic 
disease. 
3. Additional findings described above. 

CTA HEAD AND CTA NECK Study Date of ___ 
1. Redemonstration of a focus of late acute to subacute infarct 
in the left corona radiata.  No intracranial hemorrhage. 
2. Atrophy and stable extensive white matter disease, possibly 
related to 
prior therapy or chronic small vessel ischemic disease. 
3. No severe vascular stenosis, occlusion or aneurysm.  Mild 
atherosclerotic disease is noted in the posterior cerebral 
arteries and cavernous internal carotid arteries. 
4. Improved nodular and ground-glass opacities in the posterior 
right upper lobe, consistent with resolving infection or 
contusion. 
5. Additional findings as described above. 

TTE Study Date of ___
IMPRESSION: Mild symmetric left ventricular hypertophy with 
normal cavity sizes, and regional/global systolic function. No 
definite structural cardiac source of embolism identified. 
Compared with the prior TTE (images not available for review) of 
___, the findings are similar.
 
Brief Hospital Course:
Ms. ___ is a ___ year old lady with history of 
rheumatoid arthritis on chronic prednisone, leukocytoclastic 
vasculitis, hypothyroidism, diabetes, and question of recent 
stroke with residual R sided weakness, who presents with toxic 
metabolic encephalopathy in setting of pyelonephritis, with MRI 
confirming subacute left corona radiata CVA. 

# Pyelonephritis
# Abdominal pain
Patient presented with fever to 102.7F and diffuse abdominal 
pain, with pyuria on U/A as well as CTA/P remarkable for 
stranding surrounding bladder and near L adrenal/kidney, which 
was repeated later in hospital course for ongoing abdominal pain 
and distension, unrevealing for a new source of pain. Other 
sources of fever considered included possible PNA, given ground 
glass changes in RUL seen on CT chest, however patient without 
cough or hypoxia. She completed 7 day course of antibiotics with 
vancomycin + ceftriaxone ending ___, given history of MRSA UTI 
(at that time with indwelling foley cathether), with resolution 
of fever. Urine cultures returned as mixed bacterial flora, and 
blood cultures notable for only 1 bottle in one set positive for 
coag negative staph after >48 hours, thought to be a 
contaminant. Given clinical stability patient did not receive 
stress dose steroids.

# Toxic metabolic encephalopathy 
# Delirium
In ED patient was very agitated, refusing care, requiring 
multiple doses of IM zyprexa, then on medical floor was 
initially somnolent, with negative CTH. By hospital day 2 was AO 
x 3 after treatment of infection as above. Throughout hospital 
course mental status waxed and waned, likely with component of 
delirium, but improved back to her baseline by discharge 
(oriented and able to perform ___ backwards) as her antibiotics 
course was ending. ___ oxycodone, methadone, gabapentin were 
held in setting of altered mental status, restarted methadone 
partway through hospital course, held others, to be restarted at 
rehab if needed. 

# Right hemiparesis
# Subacute L corona radiata stroke
On HD1, patient noted to have R sided hemiparesis. This was 
previously documented in PCP note from ___, and upon further 
investigation, appeared that patient had presented to ___ 
___ in ___ with complaint of right sided weakness. 
Per their discharge summary, "patient was not a candidate for 
intravenous alteplase, MRI/MRA of brain was ordered but patient 
was not cooperative. We spoke again with her and family members 
and patient is insisting in refusing brain MRI." She was 
discharged with aspirin 324 mg and Lipitor 80 mg daily. Their 
exam documents "AOx2 strength ___ in LUE, ___ ___ in L 
leg and ___ in R leg. Sensation in L arm dull when compared to 
right". There was also report of patient saying "this is not the 
first time she is having this right sided weakness and usually 
recovers". After prolonged discussion, MRI ___ was obtained 
showing late acute to subacute infarct in the left corona 
radiata, no intracranial hemorrhage. Note was also made of 
extensive white matter signal abnormality likely related to 
chronic small vessel ischemic disease. CTA head and neck 
revealed no severe vascular stenosis, occlusion or aneurysm. TTE 
with no definite structural cardiac source of embolism 
identified. Patient was initially maintained on telemetry 
without any report of atrial fibrillation but ultimately 
declined to continue monitoring. Long-term event monitoring 
could be discussed as an outpatient. Regarding other stroke risk 
factors, LDL was 42, TSH 43/fT4 0.7, A1c 6.1. She was placed on 
aspirin 81 mg, atorvastatin 80 mg. ___ and OT evaluated patient 
and recommended rehab, and she was agreeable.

# +BCx for coag negative staph: Aerobic bottle from ___ 
positive for coag negative staph ___ bottles) after >48 hours 
of growth, likely contaminant. However, patient did receive 
vancomycin x 7 days given history of MRSA UTI.

# Hypothyroidism: Note patient with TSH 43, fT4 0.7, was 
evaluated by endocrine at ___ and also seen for this at ___, 
attributed to medication noncompliance, started 125 mcg daily 
weight based in ___ which was continued this stay. She will 
need repeat TSH within 6 weeks. 

# Hypertension: Continued ___ amlodipine. Initially held ___ 
triamterene-HCTZ and losartan I/s/o normotension, held on 
discharge for mild ___.

# ___: Noted to have elevated Creatinine 1.2 from 0.9 and BUN 26 
from 12 one day prior to discharge I/s/o receiving multiple 
contrast loads. Held ___ antihypertensives as above.

# Chronic back and ___ pain: Continued ___ methadone 10 mg 
TID:PRN (confirmed with ___ that patient takes methadone 10 
mg TID:PRN + oxycodone 5 mg TID). ___ oxycodone and gabapentin 
held as above. Please note that per last pain clinic note 
___, there may be an element of opioid induced hyperalgesia 
as well as opioid tolerance. There was recommendation for 
continued gradual taper 10% reduction starting with breakthrough 
oxycodone over ___ intervals then methadone. Her narcotics 
contract from ___ was reviewed (Dr. ___, with 
documentation of plan for taper by 10% every 4 weeks- does not 
appear that this had been done. ___ benefit from new pain clinic 
referral. 

CHRONIC ISSUES:
=================
# Diabetes: Continued on SSI while in house, resumed ___ 
metformin on discharge.

# Rheumatoid arthritis with leukocytoclastic vasculitis: 
Continued ___ prednisone 5mg daily

# Urinary retention: 
# Recurrent UTIs:
Patient at baseline requires intermittent straight 
catheterizations due to intermittent trouble with initiating 
urinary stream. Previously referred to 
uro-gyn by her ___ PCP, unclear if followed up. Required 
intermittent straight cath during hospitalization.

# Normocytic anemia: Mixed iron deficiency and anemia of chronic 
inflammation

# Chronic venous stasis ulcerations: ___ care RN previously 
recommended waffle boots, ace wraps to b/l LEs.

TRANSITIONAL ISSUES:
====================
[] Neurology follow up for CVA
[] Started aspirin 81 mg, atorvastatin 80 mg daily
[] Resumed Levothyroxine 125 mg daily
[] Held gabapentin and oxycodone for altered mental status, 
consider pain clinic followup to taper off methadone
[] Held ___ triamterene-HCTZ and losartan for mild ___, please 
restart in 1 week if needed for BP control
[] Consider re-referral to uro-gyn for ongoing urinary retention
[] Monitor BMs and uptitrate bowel regimen as needed
[] Continue to address long term event monitor as outpatient to 
workup stroke
[] Social work in contact with ___ to 
increase patient's ___ services, which she adamantly refused, 
would continue to readdress at rehab
[] Please recheck TSH ___ (TSH 43, Free T4 0.7 on ___
[] Noted on CT A/P incidentally: fusion of the L3-L4 vertebral 
bodies with irregularity and lucency of the superior endplate L5 
and the inferior endplate L4, which is similar compared to prior 
but mildly progressed compared to ___, Unchanged, 
nonspecific prominent/enlarged pelvic/inguinal lymph nodes. 
Further followup if clinically warranted.

#CODE: DNR/DNI (MOLST in chart, ___
#CONTACT: ___ (HCP, noted in chart, Son): 
___ 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q12H 
2. Methadone 10 mg PO Q8H:PRN moderate pain 
3. Gabapentin 600 mg PO QID 
4. Senna 8.6 mg PO BID:PRN Constipation - First Line 
5. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
6. Sertraline 100 mg PO BID 
7. PredniSONE 5 mg PO DAILY 
8. Nabumetone 500 mg PO BID 
9. MetFORMIN (Glucophage) 500 mg PO DAILY 
10. Losartan Potassium 50 mg PO DAILY 
11. Levothyroxine Sodium 1000 mcg PO 1X/WEEK (___) 
12. amLODIPine 10 mg PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. Atorvastatin 20 mg PO QPM 
15. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Simethicone 80 mg PO QID dyspepsia, gas  
5.  Atorvastatin 80 mg PO QPM  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Methadone 10 mg PO TID:PRN moderate-severe pain 
RX *methadone 10 mg 1 tab by mouth three times per day Disp #*9 
Tablet Refills:*0 
8.  Senna 8.6 mg PO BID  
9.  amLODIPine 10 mg PO DAILY  
10.  Aspirin 81 mg PO DAILY  
11.  MetFORMIN (Glucophage) 500 mg PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  PredniSONE 5 mg PO DAILY  
14.  Sertraline 200 mg PO DAILY  
15. HELD- Gabapentin 600 mg PO QID  This medication was held. Do 
not restart Gabapentin until there is need for it
16. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until your kidneys 
recover and your blood pressure is higher
17. HELD- Nabumetone 500 mg PO BID  This medication was held. Do 
not restart Nabumetone until you have more pain
18. HELD- OxyCODONE (Immediate Release) 5 mg PO Q12H  This 
medication was held. Do not restart OxyCODONE (Immediate 
Release) until your kidneys recover and your blood pressure is 
higher
19. HELD- Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  This 
medication was held. Do not restart Triamterene-HCTZ (37.5/25) 
until your kidneys recover and your blood pressure is higher

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Toxic metabolic encephalopathy
Sepsis
Urinary tract infection/pyelonephritis
Right-sided weakness 
Late acute to subacute stroke in the left corona radiata
Abdominal pain
Constipation

Secondary:
Hypertension
Hypothyroidism
Type 2 diabetes
Rheumatoid arthritis with a history of leukocytoclastic 
vasculitis
Venous insufficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
You came to the hospital because of confusion and belly pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You got antibiotics for a urinary tract infection that went to 
your kidneys (pyelonephritis)
- You had pictures of your brain that confirmed you had a 
stroke, which is the cause of the weakness on your right side. 
- You had pictures taken of your belly which did not show why 
you were having so much pain, but restarting your ___ methadone 
was helpful for your pain.
- You were evaluated by our physical therapists, who recommended 
that you go to rehab to get stronger before you go ___.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- It is very important to participate in the rehab program so 
you can get as much of your strength back as possible before you 
go ___.

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___